US08426447B2
Sodium borohydride (33.1 mg, 874 μmol) was added at RT to a solution of 1-((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-3,3-dimethyl-1-butanone (312 mg, 728 μmol) in methanol (5 ml) and the mixture was stirred for 1 hr at ambient temperature. Saturated ammonium chloride solution (3 ml) was added, the mixture was diluted with ethyl acetate (5 ml) and water was added to dissolve solids. The organic layer was washed with brine, dried and concentrated to give pink solid which was purified by chromatography on silica gel (12 g Redi-Sep column, 15-75% DCM/MeOH/NH4OH 90:10:1 in DCM) to afford (1RS)-1-((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-3,3-dimethyl-1-butanol as white solid.

reactant | Sodium borohydride | 874 μmol, 33.1 mg | [BH4-].[Na+]
reactant | 1-((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-3,3-dimethyl-1-butanone | 728 μmol, 312 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C(CC(C)(C)C)=O)C=2C=NC=NC2)N1 | C25H24N4O3
reactant | ammonium chloride | 3 ml | [Cl-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (1RS)-1-((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-3,3-dimethyl-1-butanol | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C(CC(C)(C)C)O)C=2C=NC=NC2)N1 | C25H26N4O3
